US07618990B2
2-(4-Nitrophenyl)-2-oxoethyl thiocyanate (3.0 g; 15.4 mmol) and 50 mL of 30% HBr in acetic acid were stirred at room temperature under nitrogen overnight. The yellow paste was neutralized with 60 mL of 2N NaOH and 60 mL of H2O. The residue was collected by suction filtration. Purification of the residue on silica gel using a stepwise gradient of 5-50% ethyl acetate:hexane gave 2-bromo-4-(4-nitrophenyl)-1,3-thiazole (2.0 g, 45%), MS (ES) m/z 286[M+H]+.

reactant | 2-(4-Nitrophenyl)-2-oxoethyl thiocyanate | 15.4 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CSC#N)=O | C9H6N2O3S
reactant | HBr | 50 mL | Br | BrH
reactant | NaOH | 2N, 60 mL | [OH-].[Na+]
reactant | H2O | 60 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-bromo-4-(4-nitrophenyl)-1,3-thiazole | 2.0 g, 45% | BrC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H5BrN2O2S
